US05273999
Preparation of 5-[(3-Carboxyphenyl)carbonyl]-2-[6-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]hexyl]benzenepropanoic Acid
Starting with 0.169 g (0.82 mmol) of 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one and 0.425 g (0.82 mmol) of 2-(6-bromohexyl)-5-[[3-(ethoxycarbonyl)phenyl]carbonyl]benzenepropanoic acid ethyl ester, the title compound (0.157 g; 34.7% overall yield) was obtained as a white solid, mp 137°-139° C. (recrystallized from hexane-ethyl acetate), using the procedure of example 22.

reactant | 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one | 0.82 mmol, 0.169 g | OC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C12H14O3
reactant | 2-(6-bromohexyl)-5-[[3-(ethoxycarbonyl)phenyl]carbonyl]benzenepropanoic acid ethyl ester | 0.82 mmol, 0.425 g | C(C)OC(CCC1=C(C=CC(=C1)C(=O)C1=CC(=CC=C1)C(=O)OCC)CCCCCCBr)=O | C27H33BrO5
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 5-[(3-Carboxyphenyl)carbonyl]-2-[6-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]hexyl]benzenepropanoic Acid | 0.157 g, 34.7% | C(=O)(O)C=1C=C(C=CC1)C(=O)C=1C=CC(=C(C1)CCC(=O)O)CCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C35H38O8
